US04518596
8-Methylthio-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine
This compound was prepared analogous to Example 2 from 2-chloro-8-methylthio-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine (m.p. 252°-254° C.) and piperazine at 50° C.

reactant | 2-chloro-8-methylthio-4-(1-oxido-thiomorpholino)-pyrimido-[5,4-d]-pyrimidine | ClC=1N=C(C2=C(N1)C(=NC=N2)SC)N2CCS(CC2)=O | C11H12ClN5OS2
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 8-Methylthio-4-(1-oxido-thiomorpholino)-2-piperazino-pyrimido-[5,4-d]-pyrimidine | CSC1=NC=NC2=C1N=C(N=C2N2CCS(CC2)=O)N2CCNCC2 | C15H21N7OS2
